US07763608B2
To a solution of 1-(4-iodophenyl)pyridine-2(1H)-thione (192 mg, 0.61 mmol) in CH3CN (5 mL), CH3I (0.40 mL, 6.4 mmol) was added. After being stirred at room temperature overnight, the mixture was concentrated in vacuo to give a solid. The solid was dissolved in DMF (3 mL). To the solution, p-anisidine (317 mg, 2.6 mmol) was added. After being stirred at 100° C. overnight, the mixture was purified by HPLC to give (E)-N-(1-(4-iodophenyl)pyridin-2(1H)-ylidene)-4-methoxybenzenamine (90 mg).

reactant | 1-(4-iodophenyl)pyridine-2(1H)-thione | 0.61 mmol, 192 mg | IC1=CC=C(C=C1)N1C(C=CC=C1)=S | C11H8INS
reactant | CH3I | 6.4 mmol, 0.40 mL | CI | CH3I
reactant | p-anisidine | 2.6 mmol, 317 mg | COC1=CC=C(C=C1)N | C7H9NO
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (E)-N-(1-(4-iodophenyl)pyridin-2(1H)-ylidene)-4-methoxybenzenamine | 90 mg | IC1=CC=C(C=C1)N1\C(\C=CC=C1)=N\C1=CC=C(C=C1)OC | C18H15IN2O
